US07674801B2
Methyl 2-chloro-4,4-dimethoxy-3-oxopentanoate
SO2Cl2 (2.2 ml, 27 mmol) was added slowly to a solution of 5.0 g (26 mmol) of methyl 4,4-dimethoxy-3-oxopentanoate in 30 ml DCM cooled in an ice water bath. The solution was warmed to room temperature and stirred for 1 h. Solvent was removed and the residue was taken up in EtOAc, which was washed with water and brine. Drying (MgSO4) and removal of solvent gave 6.1 g of an oil. NMR (CDCl3): 1.5 (s, 3H), 3.25 (2s, 6H), 4.8 (s, 3H), 5.3 (s, 1H).

reactant | methyl 4,4-dimethoxy-3-oxopentanoate | 26 mmol, 5.0 g | COC(C(CC(=O)OC)=O)(C)OC | C8H14O5
reactant | DCM | 30 ml | C(Cl)Cl | CH2Cl2
product | Methyl 2-chloro-4,4-dimethoxy-3-oxopentanoate | 6.1 g | ClC(C(=O)OC)C(C(C)(OC)OC)=O | C8H13ClO5
